US05252585
Step A: 2-Bromomethyl-6-fluoroquinoline
To a solution of 6-fluoro-2-methylquinoline (see C. M. Leir, J. Org. Chem., vol 42, pp 911-913, 1977) (21.67 g) in carbon tetrachloride (700 mL) were added N-bromosuccinimide (26.32 g) and benzoyl peroxide (1.62 g). The mixture was brought to reflux with two spot lights of 150 Watts. The mixture was irradiated for 24 hours at reflux. The mixture was then cooled to room temperature, evaporated to dryness and chromatographed on flash silica gel using pure toluene as eluant to give, as the slower running compound, a beige solid (11.9 g); m.p. 90°-92° C.

reactant | 6-fluoro-2-methylquinoline | FC=1C=C2C=CC(=NC2=CC1)C | C10H8FN
reactant | N-bromosuccinimide | 26.32 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.62 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 700 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-6-fluoroquinoline | BrCC1=NC2=CC=C(C=C2C=C1)F | C10H7BrFN
